US06066658
Lithium bis(trimethylsilyl)amide (1.0 M hexane solution, 154.0 ml) was added dropwise to tetrahydrofuran (THF) (265 ml) at -78° C. in a nitrogen stream over a period of 25 minutes. A solution of ethyl bromoacetate (25.71 g) in THF (50 ml) was then added dropwise at -78° C. ver a period of 15 minutes; a solution of 2-[bis(methylthio)methylene]cyclohexane-1,3-dione (25.62 g) in THF (240 ml) was further added drop by drop at -78° C. over a period of 30 minutes. After the reaction mixture was stirred at -78° C. for 1 hour and at room temperature for 15 hours, it was poured over an ice cooled saturated aqueous solution of ammonium chloride (1,250 ml) and stirred at room temperature for 15 minutes. The organic layer was separated; the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (2:1, v/v) to yield an oily substance. The oily substance obtained was dissolved in diethyl ether (250 ml; a boron trifluoride-diethyl ether complex (25.21 g) was added at room temperature. After the reaction mixture was stirred at room temperature for 1 hour, it was poured over water (500 ml); the organic layer was separated; the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:3, v/v) to yield ethyl 4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate (4.41 g, 14.6%), which was then recrystallized from ethyl acetate-hexane. Colorless plates. Melting point 123-124° C.

reactant | Lithium bis(trimethylsilyl)amide | 1.0 M, 154.0 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl bromoacetate | 25.71 g | BrCC(=O)OCC | C4H7BrO2
reactant | 2-[bis(methylthio)methylene]cyclohexane-1,3-dione | 25.62 g | CSC(=C1C(CCCC1=O)=O)SC | C9H12O2S2
reactant | ammonium chloride | 1,250 ml | [Cl-].[NH4+]
reactant | THF | 50 ml | O1CCCC1 | C4H8O
reactant | THF | 240 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 265 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
product | ethyl 4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]furan-1-carboxylate | 4.41 g, 14.6% | CSC1=C2C(=C(O1)C(=O)OCC)CCCC2=O | C12H14O4S
